US04380640
28 g of 2-bromo-5,5-dimethylcyclohexane-1,3-dione and 11.7 g of thiourea are dissolved in 200 ml of ethanol. After the weakly exothermic reaction has subsided, the mixture is refluxed for a further 6 hours. The solution is diluted with 400 ml of water and neutralised with saturated sodium bicarbonate solution. The precipitated crystals are collected by filtration and dried in vacuo at 80° C., affording 21 g of 2-amino-5,5-dimethyl-7-oxo-4,5-dihydro-6H-benzthiazole with a melting point of 203°-205° C.

reactant | 2-bromo-5,5-dimethylcyclohexane-1,3-dione | 28 g | BrC1C(CC(CC1=O)(C)C)=O | C8H11BrO2
reactant | thiourea | 11.7 g | NC(=S)N | CH4N2S
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | water | 400 ml | O | H2O
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 2-amino-5,5-dimethyl-7-oxo-4,5-dihydro-6H-benzthiazole | 21 g | NC=1SC2=C(N1)CC(CC2=O)(C)C | C9H12N2OS
